US04725615
1,3-Cyclohexanedione mono(4-bromophenylhydrazone)
A solution of 4-bromophenylhydrazine hydrochloride (2.24 g) and 1,3-cyclohexanedione (1.23 g) in water (60 ml) was stirred at room temperature for 1 h, giving a precipitate. The solid title compound was filtered off and dried (1.63 g). t.l.c (D), Rf 0.35 On cooling a second crop was obtained (0.395 g)

reactant | 4-bromophenylhydrazine hydrochloride | 2.24 g | Cl.BrC1=CC=C(C=C1)NN
reactant | 1,3-cyclohexanedione | 1.23 g | C1(CC(CCC1)=O)=O | C6H8O2
solvent | water | 60 ml | O | H2O
product | 1,3-Cyclohexanedione mono(4-bromophenylhydrazone) | BrC1=CC=C(C=C1)NN=C1CC(CCC1)=O | C12H13BrN2O
